US07608563B2
In methanol (40 mL) was dissolved 11.2 g (0.100 mol) of 1,3-cyclohexanedione, an aqueous solution (8 mL) containing 6.60 g (0.100 mol) of 85% potassium hydroxide was added dropwise to the solution, and the resulting mixture was stirred at room temperature for 30 minutes. This mixture was cooled in an ice bath, 21.6 g (0.110 mol) of 40% chloroacetaldehyde aqueous solution was added to the mixture with stirring and the resulting mixture was stirred at room temperature overnight. To the reaction mixture was added dropwise 2 mol/L hydrochloric acid aqueous solution, and the resulting mixture was stirred at room temperature for 30 minutes and extracted with ether. The organic layer was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane-ethyl acetate, gradient) to obtain 8.63 g (0.0635 mol, Yield: 63.5%) of 6,7-dihydro-1-benzofuran-4(5H)-one.

reactant | 1,3-cyclohexanedione | 0.100 mol, 11.2 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | potassium hydroxide | 0.100 mol, 6.60 g | [OH-].[K+]
reactant | chloroacetaldehyde | 0.110 mol, 21.6 g | ClCC=O | C2H3ClO
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 6,7-dihydro-1-benzofuran-4(5H)-one | 0.0635 mol, 8.63 g, Yield: 63.5% | O1C=CC2=C1CCCC2=O | C8H8O2
